US04009181
A solution of 1.0 g. of 6-chloro-2-cyano-1,2,3,4-tetrahydrocarbazole in 15 ml. of tetrahydrofuran was added dropwise to a cooled (10° C. ), stirred solution of 9.6 g. of methyl magnesium iodide in 20 ml. of ether. The reaction mixture was refluxed and stirred under an atmosphere of dry nitrogen for 24 hours. Thereafter, it was cooled to 5° C. in an ice bath and 50 ml. of cold water was carefully added followed by 3 ml. of concentrated hydrochloric acid. The mixture was heated for 3 hours on a steam bath. After the mixture had been cooled by adding ice, it was extracted with ether. The ether solution was washed by extraction with dilute sodium bicarbonate and water. When the ether solution had dried over anhydrous magnesium sulfate, the desiccant was removed by filtration and the ether was removed by distillation, yielding 0.8 g.of product. Following crystallization from a mixture of hexane and ethyl acetate, 0.4 g. of 2-acetyl-6-chloro-1,2,3,4-tetrahydrocarbazole was obtained, m.p. 159° -161°.

reactant | 6-chloro-2-cyano-1,2,3,4-tetrahydrocarbazole | ClC=1C=C2C=3CCC(CC3NC2=CC1)C#N | C13H11ClN2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | methyl magnesium iodide | C[Mg]I
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-acetyl-6-chloro-1,2,3,4-tetrahydrocarbazole | C(C)(=O)C1CC=2NC3=CC=C(C=C3C2CC1)Cl | C14H14ClNO
